US06291477B1
a) [5-(tert-Butyidimethylsilanyloxy)-2-cyclopentyl-4-(3,4-difluorophenyl)-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl]-(4-trifluoromethylpbenyl)-methanone
0.529 g (1 mmol) of [2-cyclopentyl-4-(3,4-difluorophenyl)-5-hydroxy-7,7-dimethyl-5,6,7,8-tetrahydro-quinolin-3-yl]-(4-trifluoromethylphenyl)-methanone are dissolved in 6 ml of abs. toluene and admixed with 0.465 ml of lutidine at −5° C. At from −5° C. to −10° C., 0.459 ml (2 mmol) of tert-butyldimethylsilyl trifluoromethanesulphonate is added. The mixture is stirred at 20° C. for 3 hours. The mixture is diluted with toluene, the reaction is quenched with 10% strength aqueous ammonium chloride solution and the organic phase is washed with 0.1 N hydrochloric acid and saturated aqueous sodium bicarbonate solution and dried. The solvent is distilled off under reduced pressure and the residue is then purified using a column. This gives 620 mg of colourless crystals of melting point: 128° C.-129° C.

reactant | [2-cyclopentyl-4-(3,4-difluorophenyl)-5-hydroxy-7,7-dimethyl-5,6,7,8-tetrahydro-quinolin-3-yl]-(4-trifluoromethylphenyl)-methanone | 1 mmol, 0.529 g | C1(CCCC1)C1=NC=2CC(CC(C2C(=C1C(=O)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)F)F)O)(C)C | C30H28F5NO2
reactant | lutidine | 0.465 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyldimethylsilyl trifluoromethanesulphonate | 2 mmol, 0.459 ml | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [5-(tert-Butyidimethylsilanyloxy)-2-cyclopentyl-4-(3,4-difluorophenyl)-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl]-(4-trifluoromethylpbenyl)-methanone | [Si](C)(C)(C(C)(C)C)OC1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)C(=O)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)F)F | C36H42F5NO2Si
